US08383139B2
3-[1-(4-Chlorophenyl)cyclopropyl]-5-[(4-methylphenyl)sulphonyl]-1,2,4-thiadiazole
5.00 g (19.71 mmol) of 5-[1-(4-chlorophenyl)cyclopropyl]-1,3,4-oxathiazol-2-one and 3.75 g (20.69 mmol) of tosyl cyanide are stirred in 14 ml of 1,2-dichlorobenzene at 160° C. for 1 h. Subsequently, the reaction mixture is cooled, 10 ml of pentane are added and the precipitate is filtered off and dried under vacuum. 6.43 g of product are obtained (86.7% purity, 72.3% yield; log P (pH2.3)=4.97).

reactant | 5-[1-(4-chlorophenyl)cyclopropyl]-1,3,4-oxathiazol-2-one | 19.71 mmol, 5.00 g | ClC1=CC=C(C=C1)C1(CC1)C1=NSC(O1)=O | C11H8ClNO2S
reactant | tosyl cyanide | 20.69 mmol, 3.75 g | S(=O)(=O)(C1=CC=C(C)C=C1)C#N | C8H7NO2S
reactant | pentane | 10 ml | CCCCC | C5H12
solvent | 1,2-dichlorobenzene | 14 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-[1-(4-Chlorophenyl)cyclopropyl]-5-[(4-methylphenyl)sulphonyl]-1,2,4-thiadiazole | 6.43 g, 72.3% yield | ClC1=CC=C(C=C1)C1(CC1)C1=NSC(=N1)S(=O)(=O)C1=CC=C(C=C1)C | C18H15ClN2O2S2
